US06124323
1-[2-(4-hydroxyphenoxy)ethyl]-4-benzylpiperidine hydrochloride
To a solution of 1-[2-(4-benzyloxyphenoxy)ethyl]-4-benzylpiperidine hydrochloride (401 mg, 1.0 mmol) in 25 mL of ethanol was added 1.0 mL of 1 M HCl in methanol and 100 mg of 10% Pd/C. The resulting mixture was hydrogenated at 30 psi of hydrogen for 2 h. The catalyst was removed through a short column of celite (5 g) and washed with methanol (3×15 mL). The combined flitrate was evaporated in vacuo to give an oil and then ether (30 mL) was added to the residue. The resulting mixture was allowed to stir at rt overnight. The white solid was collected by filtration and dried in vacuo, giving 330 mg (100%) of the title product. mp 212-215° C. 1H NMR (CDCl3 +DMSO-d3) 1.656 (m, 3 H), 1.829 (m, 2 H), 2.425 (s, 2 H), 2.626 (m, 2 H), 3.187 (m, 2 H), 3.4 (brs, 1 H), 4.253 (s, 2 H), 6.549 (m, 4 H), 6.942-7.092 (m, 5 H), 12.0 (brs, 1 H).

reactant | 1-[2-(4-benzyloxyphenoxy)ethyl]-4-benzylpiperidine hydrochloride | 1.0 mmol, 401 mg | Cl.C(C1=CC=CC=C1)OC1=CC=C(OCCN2CCC(CC2)CC2=CC=CC=C2)C=C1
reactant | HCl | 1 M, 1.0 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | ether | 30 mL | CCOCC | C4H10O
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
solvent | Pd/C | 100 mg | [Pd] | Pd
product | 1-[2-(4-hydroxyphenoxy)ethyl]-4-benzylpiperidine hydrochloride | 330 mg, 100% | Cl.OC1=CC=C(OCCN2CCC(CC2)CC2=CC=CC=C2)C=C1 | InChI=1S/C20H25NO2.ClH/c22-19-6-8-20(9-7-19)23-15-14-21-12-10-18(11-13-21)16-17-4-2-1-3-5-17;/h1-9,18,22H,10-16H2;1H
